US04888439
N-(19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoyl)-pyrrolidine
Starting materials: 19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoic acid and pyrrolidine.

reactant | 19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoic acid | C(C)OC(=O)C=C(CCC=C(CCC=C(CCC=C(CCC=C(C(=O)O)C)C)C)C)C | C27H42O4
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N-(19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoyl)-pyrrolidine | C(C)OC(=O)C=C(CCC=C(CCC=C(CCC=C(CCC=C(C(=O)N1CCCC1)C)C)C)C)C | C31H49NO3
